US08198279B2
1-(4-chloro-3-(trifluoromethyl)phenyl)-3-(4-(2-oxo-1,2-dihydro pyrido[2,3-b]pyrazin-8-yloxy)phenyl)urea (AA-042)
Method F1 (one pot deprotection of Boc and coupling with isocyanate): Tert-butyl 4-(2-oxo-1,2-dihydropyrido[2,3-b]pyrazin-8-yloxy)phenylcarbamate (0.240 g, 0.67 mmol) is dissolved in trifluoroacetic acid (2 ml) and the solution is stirred at room temperature under Argon atmosphere for 2 h. The solvent is evaporated under reduced pressure and the resulting dark oil is dissolved in THF (3 ml) and triethylamine (1 ml). 1-chloro-4-isocyanato-2-(trifluoromethyl)benzene (0.180 g, 0.80 mmol) is added in one portion, and the solution was stirred overnight at 45 C under Ar atmosphere. The solution is then cooled and evaporated and the crude was crystallised from dichloromethane and diethyl ether to afford the title compound (15 mg, 5% yield) as a brown solid.

reactant | isocyanate | [N-]=C=O
reactant | Tert-butyl 4-(2-oxo-1,2-dihydropyrido[2,3-b]pyrazin-8-yloxy)phenylcarbamate | 0.67 mmol, 0.240 g | O=C1NC2=C(N=C1)N=CC=C2OC2=CC=C(C=C2)NC(OC(C)(C)C)=O | C18H18N4O4
reactant | 1-chloro-4-isocyanato-2-(trifluoromethyl)benzene | 0.80 mmol, 0.180 g | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
solvent | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(4-chloro-3-(trifluoromethyl)phenyl)-3-(4-(2-oxo-1,2-dihydro pyrido[2,3-b]pyrazin-8-yloxy)phenyl)urea | 15 mg, 5% yield | ClC1=C(C=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC=2N=CC(NC21)=O)C(F)(F)F | C21H13ClF3N5O3
